US07772253B2
3-Cyclopropyl-5-methoxy-benzoic acid methyl ester
The above prepared 3-methoxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester (0.350 g, 1.11 mmol) was dissolved under Ar in 4.5 ml of abs. toluene and 0.49 ml of water and treated successively with cyclopropyl boronic acid (0.191 g, 2 eq.), K3PO4 (1.272 g, 5.4 eq.), tricyclohexylphosphine (0.069 g, 0.22 eq.), and finally Pd(OAc)2 (0.028 g, 0.11 eq.). The reaction flask was closed with a septum and the mixture was allowed to react for 16 h at 100° C. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, hexane/AcOEt=9/1), afforded 0.221 g of the title compound as yellow oil, 97% pure according to GC-analysis.

reactant | 3-methoxy-5-trifluoromethanesulfonyloxy-benzoic acid methyl ester | 1.11 mmol, 0.350 g | COC(C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OC)=O | C10H9F3O6S
reactant | cyclopropyl boronic acid | 0.191 g, 2 eq. | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 1.272 g, 5.4 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.069 g, 0.22 eq. | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | Pd(OAc)2 | 0.028 g, 0.11 eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 0.49 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Cyclopropyl-5-methoxy-benzoic acid methyl ester | 0.221 g | COC(C1=CC(=CC(=C1)OC)C1CC1)=O | C12H14O3
